US05618821
Triethylsilane (5 ml) was added to a stirred solution of 2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-1-hydroxy-butyl]-7-azaindole (520 mg, 1.33 mmol) in 20 ml of trifluoroacetic acid at 20° C. under nitrogen. The mixture was stirred at 20° C. for 10 min and then stirred at 70°-75° C. for 16 h. To the mixture was added water, and basified with an aqueous sodium bicarbonate solution (to pH=8) followed by extraction with methylene chloride (3x). The combined organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica column chromatography (7.5 cm column, ethyl acetate/hexane, 1/5-8/1) . The mixture was recrystallized to afford 349 mg (74%) of 2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-7-azaindole, as a white solid, m.p. 147°-150° C.

reactant | Triethylsilane | 5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-1-hydroxy-butyl]-7-azaindole | 1.33 mmol, 520 mg | CN1N=C(N=N1)C1=CC(=C(OCCCC(O)C=2NC3=NC=CC=C3C2)C(=C1)C)C | C21H24N6O2
reactant | water | O | H2O
reactant | sodium bicarbonate | pH=8 | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-7-azaindole | 349 mg, 74% | CN1N=C(N=N1)C1=CC(=C(OCCCCC=2NC3=NC=CC=C3C2)C(=C1)C)C | C21H24N6O
